datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CC)[H])[H].[O-:21]C>>CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)[H])[H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([O]C)[S]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([O]C)[S]C 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(CC)[NH][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C(C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C([H])[O][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[H][S+:10](C(C)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C(CC)[O][C:20]([O]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[Li][O:21]C1=CC=CC=C1.[C:20](=[O:10])(OC1=CC=CC=C1)OC>>[Li][O+:21]([C:20]([O-:10])(OC1=CC=CC=C1)OC)C1=CC=CC=C1 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(C)[S]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C)[S][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"[H][S+:10](C(C)C([H])[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC1=CC=CC=C1)CC.[O-:21]CC>>[H]N([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]CC)CC 21=20;20,10=10"
"[O-:21][C:20]1(C)[O+:10]([Na])C(CCC)C([H])C1O>>[O:10]([Na])C(CCC)C([H])C([C:20](C)=[O:21])O 21=20;20,10=10"
"C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[O]C 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH](CC)[S]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(CC)C([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(CC)C([H])[O]2.C[NH:10][H] 21=20;20,10=10"
"[H]C1C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1.[O-:21]CCCCCC>>[H]C1C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)C1=CC=CC=C1 21=20;20,10=10"
"[O:10]([K])C(CCC)/C(C)=C([H])\C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C([H])=C(C)C(CCC)[O+:10]1([K]) 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[O]2.C[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([O]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([O]C)[NH]C7=CC=CC=C7 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(CC)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(CC)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7 21=20;20,10=10"
"CN([C:20]([O-:10])([O:21]N1C(=O)CCC1=O)CCCCCC)C>>CN([C:20](=[O:10])CCCCCC)C.C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)CC.[O-:21]C>>CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)C1=CC=CC=C1)CC 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)[H]>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1CCCCCC)[H].[O-:21]C 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21][H])([O]C)[NH][H].[Cl-]>>[Cl-].[H][O:10][H].[H][NH+:21]=[C:20]([O]C)[NH][H] 21=20;20,10=10"
"C1=CC=CC=C1[NH:10][H].C1CC(=O)N(C1=O)O[C:20](=[O:21])C>>C1=CC=CC=C1[NH+:10]([C:20]([O-:21])(ON1C(=O)CCC1=O)C)[H] 10=20;20,21=21"
"[O-:21][C:20]2([H])C(C([H])C3=C([NH+:10]2([H]))C=CC=C3)[H]>>[NH:10]([H])C(C=CC=C1)=C1C([H])C([C:20]([H])=[O:21])[H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)C)CC)C>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)C)CC)[O-:10])C 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[O]C(CC)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[O]2.CC[NH:10][H] 21=20;20,10=10"
"C[O:10][H].[H][NH+:21]=[C:20]([NH][H])[NH]C.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21][H])([NH][H])[NH]C 10=20;20,21=21"
"[H][NH:10]C([H])C(C)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(CC)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])C(O)C(C)C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C(C)C(O)C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
